### PR TITLE
feat(Computability/ContextFreeGrammar): mapping between two types of nonterminal symbols

### PR DESCRIPTION
**Pull request by madvorak**
---

[Open in Gitpod](https://gitpod.io/from-referrer/)

### CODE REVIEW

**Comment by madvorak** [comment]
This is the first half of #13514 as a standalone PR.

File: Mathlib/Computability/ContextFreeGrammar.lean [hunk 1]
```diff
@@ -253,3 +253,172 @@ theorem Language.IsContextFree.reverse (L : Language T) :
...
+closure properties. When combining several grammars together, we usually want to take a sum type of
+their nonterminal types and embed respective nonterminals to this sum type. We subsequently show
+that the resulting grammar preserves derivations of those strings that may contain any terminals but
+only the proper nonterminals. The embedding operation must be injective. The projection operation
+must be injective on those symbols where it is defined. -/
+
+/-- Mapping `Symbol` when it is a nonterminal. -/
+def Symbol.map {N₀ N : Type*} (f : N₀ → N) : Symbol T N₀ → Symbol T N
+  | Symbol.terminal t => Symbol.terminal t
+  | Symbol.nonterminal n => Symbol.nonterminal (f n)
```
Comment (YaelDillies) [inline Mathlib/Computability/ContextFreeGrammar.lean:269]: Why not
```suggestion
/-- Mapping `Symbol` when it is a nonterminal. -/
def Symbol.map {N₀ N T₀ T : Type*} (f : T₀ → T) (g : N₀ → N) : Symbol T₀ N₀ → Symbol T N
  | Symbol.terminal t => Symbol.terminal (f t)
  | Symbol.nonterminal n => Symbol.nonterminal (g n)
```
This matches `Sum.map`

File: Mathlib/Computability/ContextFreeGrammar.lean [hunk 2]
```diff
@@ -253,3 +253,172 @@ theorem Language.IsContextFree.reverse (L : Language T) :
...
+
+/-- Mapping `Symbol` when it is a nonterminal; may return `none`. -/
+def Symbol.filterMap {N₀ N : Type*} (f : N → Option N₀) : Symbol T N → Option (Symbol T N₀)
+  | Symbol.terminal t => some (Symbol.terminal t)
+  | Symbol.nonterminal n => Option.map Symbol.nonterminal (f n)
+
+/-- Mapping `ContextFreeRule` to a another nonterminal type. -/
```
Comment (YaelDillies) [inline Mathlib/Computability/ContextFreeGrammar.lean:276]:
```suggestion
/-- Map the type of nonterminal symbols of a `ContextFreeRule` . -/
```
and similar for other docstrings

File: Mathlib/Computability/ContextFreeGrammar.lean [hunk 3]
```diff
@@ -253,3 +253,172 @@ theorem Language.IsContextFree.reverse (L : Language T) :
...
+def ContextFreeRule.map {N₀ N : Type*} (r : ContextFreeRule T N₀) (f : N₀ → N) :
+    ContextFreeRule T N :=
+  ⟨f r.input, r.output.map (Symbol.map f)⟩
+
+/-- A pair of `ContextFreeGrammar`s that, roughly speaking, work the same way. -/
```
Comment (YaelDillies) [inline Mathlib/Computability/ContextFreeGrammar.lean:281]: Could the docstring speak less roughly?

File: Mathlib/Computability/ContextFreeGrammar.lean (hunk 1 above)
Comment (madvorak) [reply Mathlib/Computability/ContextFreeGrammar.lean:269]: Yes but it would introduce additional useless argument.

Comment (YaelDillies) [reply Mathlib/Computability/ContextFreeGrammar.lean:269]: Are you sure you will never need to map the terminal symbols?

Comment (madvorak) [reply Mathlib/Computability/ContextFreeGrammar.lean:269]: If it ever happens, I will use a different mapping function that changes terminals only. Throughout the whole file, terminals and nonterminals are treated in "asymmetric" ways. Note that one of them is a type argument and the other is a field of any given grammar.

File: Mathlib/Computability/ContextFreeGrammar.lean (hunk 3 above)
Comment (madvorak) [reply Mathlib/Computability/ContextFreeGrammar.lean]: I added something; feel free to write something different.

File: Mathlib/Computability/ContextFreeGrammar.lean [hunk 4]
```diff
@@ -253,3 +253,176 @@ theorem Language.IsContextFree.reverse (L : Language T) :
...
 
 end closure_reversal
+
+section embed_project
+
+/-! This section contains only auxiliary constructions that will shorten upcoming proofs of
+closure properties. When combining several grammars together, we usually want to take a sum type of
+their nonterminal types and embed respective nonterminals to this sum type. We subsequently show
+that the resulting grammar preserves derivations of those strings that may contain any terminals but
+only the proper nonterminals. The embedding operation must be injective. The projection operation
```
Comment (YaelDillies) [inline Mathlib/Computability/ContextFreeGrammar.lean:263]: Using "terminal" and "nonterminal" in place of "terminal symbol" and "nonterminal symbol" is quite idiosyncratic and definitely hampers comprehension
```suggestion
that the resulting grammar preserves derivations of those strings that may contain any terminal symbols but
only the proper nonterminal symbols. The embedding operation must be injective. The projection operation
```
and below

File: Mathlib/Computability/ContextFreeGrammar.lean [hunk 5]
```diff
@@ -253,3 +253,176 @@ theorem Language.IsContextFree.reverse (L : Language T) :
...
+def Symbol.filterMap {N₀ N : Type*} (f : N → Option N₀) : Symbol T N → Option (Symbol T N₀)
+  | Symbol.terminal t => some (Symbol.terminal t)
+  | Symbol.nonterminal n => Option.map Symbol.nonterminal (f n)
+
+/-- Map the type of nonterminal symbols of a `ContextFreeRule` . -/
+def ContextFreeRule.map {N₀ N : Type*} (r : ContextFreeRule T N₀) (f : N₀ → N) :
+    ContextFreeRule T N :=
+  ⟨f r.input, r.output.map (Symbol.map f)⟩
+
+/-- A pair of `ContextFreeGrammar`s with maps between their nonterminal types that work,
```
Comment (YaelDillies) [inline Mathlib/Computability/ContextFreeGrammar.lean:281]:
```suggestion
/-- A pair of `ContextFreeGrammar`s with maps between their types of nonterminal symbols that work,
```

File: Mathlib/Computability/ContextFreeGrammar.lean [hunk 6]
```diff
@@ -253,3 +253,176 @@ theorem Language.IsContextFree.reverse (L : Language T) :
...
+structure EmbeddedContextFreeGrammar (T : Type uT) where
+  /-- The smaller grammar. -/
+  g₀ : ContextFreeGrammar.{uN} T
+  /-- The bigger grammar. -/
+  g : ContextFreeGrammar.{uN} T
+  /-- Mapping nonterminals from the smaller type to the bigger type. -/
+  embedNT : g₀.NT → g.NT
+  /-- Mapping nonterminals from the bigger type to the smaller type. -/
+  projectNT : g.NT → Option g₀.NT
+  /-- The former map is injective. -/
```
Comment (YaelDillies) [inline Mathlib/Computability/ContextFreeGrammar.lean:292]: You shouldn't rely on the order of the fields in docstrings
```suggestion
  /-- The function on nonterminal symbols is injective. -/
```

File: Mathlib/Computability/ContextFreeGrammar.lean [hunk 7]
```diff
@@ -253,3 +253,176 @@ theorem Language.IsContextFree.reverse (L : Language T) :
...
+  embed_inj : Function.Injective embedNT
+  /-- The latter map is injective where defined. -/
+  project_inj : ∀ x y, projectNT x = projectNT y → x = y ∨ projectNT x = none
```
Comment (YaelDillies) [inline Mathlib/Computability/ContextFreeGrammar.lean:295]: I think this will be more useful to you
```suggestion
  project_inj ⦃x y⦄ : projectNT x ≠ none → projectNT x = projectNT y → x = y
```

File: Mathlib/Computability/ContextFreeGrammar.lean [hunk 8]
```diff
@@ -253,3 +253,176 @@ theorem Language.IsContextFree.reverse (L : Language T) :
...
+  embed_mem_rules : ∀ r : ContextFreeRule T g₀.NT, r ∈ g₀.rules → r.map embedNT ∈ g.rules
+  /-- Each rule of the bigger grammar whose input nonterminal the smaller grammar recognizes
+  has a corresponding rule in the smaller grammar. -/
+  preimage_of_rules :
+    ∀ r : ContextFreeRule T g.NT,
+      r ∈ g.rules → ∀ n₀ : g₀.NT,
+        embedNT n₀ = r.input → ∃ r₀ ∈ g₀.rules, r₀.map embedNT = r
+
+lemma EmbeddedContextFreeGrammar.projectNT_inverse_embedNT (G : EmbeddedContextFreeGrammar T) :
+    ∀ x : G.g.NT, (∃ n₀, G.projectNT x = some n₀) → (Option.map G.embedNT (G.projectNT x) = x) := by
```
Comment (YaelDillies) [inline Mathlib/Computability/ContextFreeGrammar.lean:308]: Can you please eliminate the `∃`? In fact, why is the lemma not
```suggestion
lemma EmbeddedContextFreeGrammar.projectNT_inverse_embedNT (G : EmbeddedContextFreeGrammar T) {x n₀} :
    G.projectNT x = some n₀ → G.embedNT n₀ = x := by
```

File: Mathlib/Computability/ContextFreeGrammar.lean [hunk 9]
```diff
@@ -253,3 +253,176 @@ theorem Language.IsContextFree.reverse (L : Language T) :
...
+/-- A `Symbol` is good iff it is one of those nonterminals that result from projecting or it is any
+terminal. -/
+def EmbeddedContextFreeGrammar.Good {G : EmbeddedContextFreeGrammar T} : Symbol T G.g.NT → Prop
+  | Symbol.terminal _ => True
+  | Symbol.nonterminal n => ∃ n₀ : G.g₀.NT, G.projectNT n = n₀
+
+/-- A string is good iff every `Symbol` in it is good. -/
+def EmbeddedContextFreeGrammar.GoodString {G : EmbeddedContextFreeGrammar T}
+    (s : List (Symbol T G.g.NT)) : Prop :=
+  ∀ a ∈ s, Good a
```
Comment (YaelDillies) [inline Mathlib/Computability/ContextFreeGrammar.lean:347]:
```suggestion
  ∀ ⦃a⦄, a ∈ s → Good a
```

File: Mathlib/Computability/ContextFreeGrammar.lean [hunk 10]
```diff
@@ -253,3 +253,176 @@ theorem Language.IsContextFree.reverse (L : Language T) :
...
+
+lemma EmbeddedContextFreeGrammar.singletonGoodString {G : EmbeddedContextFreeGrammar T}
```
Comment (YaelDillies) [inline Mathlib/Computability/ContextFreeGrammar.lean:349]:
```suggestion
lemma EmbeddedContextFreeGrammar.goodString_singleton {G : EmbeddedContextFreeGrammar T}
```

File: Mathlib/Computability/ContextFreeGrammar.lean (hunk 6 above)
Comment (madvorak) [reply Mathlib/Computability/ContextFreeGrammar.lean:292]: Both are functions non nonterminal symbols.

File: Mathlib/Computability/ContextFreeGrammar.lean (hunk 4 above)
Comment (madvorak) [reply Mathlib/Computability/ContextFreeGrammar.lean]: Are you sure that you want to use "terminal symbols" and "nonterminal symbols" only?

In the ITP paper that documents the Lean 3 library, I was naming it as follows:
let `(n : g.NT)`
`n` .. nonterminal
`Symbol.nonterminal n` ... nonterminal symbol

File: Mathlib/Computability/ContextFreeGrammar.lean (hunk 6 above)
Comment (YaelDillies) [reply Mathlib/Computability/ContextFreeGrammar.lean:293]:
```suggestion
  /-- The embedding map is injective. -/
```

File: Mathlib/Computability/ContextFreeGrammar.lean [hunk 11]
```diff
@@ -253,3 +253,178 @@ theorem Language.IsContextFree.reverse (L : Language T) :
...
+  /-- The former map is injective. -/
+  embed_inj : Function.Injective embedNT
+  /-- The latter map is injective where defined. -/
+  project_inj : ∀ x y : g.NT, projectNT x = projectNT y → x = y ∨ projectNT x = none
+  /-- The two mappings are essentially inverses. -/
+  projectNT_embedNT : ∀ n₀ : g₀.NT, projectNT (embedNT n₀) = some n₀
+  /-- Each rule of the smaller grammar has a corresponding rule in the bigger grammar. -/
+  embed_mem_rules : ∀ r : ContextFreeRule T g₀.NT, r ∈ g₀.rules → r.map embedNT ∈ g.rules
+  /-- Each rule of the bigger grammar whose input nonterminal the smaller grammar recognizes
+  has a corresponding rule in the smaller grammar. -/
```
Comment (YaelDillies) [inline Mathlib/Computability/ContextFreeGrammar.lean:302]: I don't understand nonterminal this sentence

File: Mathlib/Computability/ContextFreeGrammar.lean [hunk 12]
```diff
@@ -253,3 +253,178 @@ theorem Language.IsContextFree.reverse (L : Language T) :
...
+    (hn : G.projectNT n = some n₀) :
+    Option.map G.embedNT (G.projectNT n) = n := by
+  rw [hn, Option.map_some']
+  apply congr_arg
+  by_contra hnx
+  cases (G.projectNT_embedNT n₀ ▸ G.project_inj n (G.embedNT n₀)) hn with
+  | inl case_valu => exact hnx case_valu.symm
+  | inr case_none => exact Option.noConfusion (hn ▸ case_none)
+
+/-- Production by `G.g₀` can be mirrored by `G.g` production. -/
```
Comment (YaelDillies) [inline Mathlib/Computability/ContextFreeGrammar.lean:320]:
```suggestion
/-- Production by `G.g₀` can be mirrored by production by `G.g`. -/
```

File: Mathlib/Computability/ContextFreeGrammar.lean [hunk 13]
```diff
@@ -253,3 +253,178 @@ theorem Language.IsContextFree.reverse (L : Language T) :
...
+  rcases hG with ⟨r, rin, hr⟩
+  rcases hr.exists_parts with ⟨u, v, bef, aft⟩
+  refine ⟨r.map G.embedNT, G.embed_mem_rules r rin, ?_⟩
+  rw [ContextFreeRule.rewrites_iff]
+  use u.map (Symbol.map G.embedNT), v.map (Symbol.map G.embedNT)
+  constructor
+  · simpa only [List.map_append] using congr_arg (List.map (Symbol.map G.embedNT)) bef
+  · simpa only [List.map_append] using congr_arg (List.map (Symbol.map G.embedNT)) aft
+
+/-- Derivation by `G.g₀` can be mirrored by `G.g` derivation. -/
```
Comment (YaelDillies) [inline Mathlib/Computability/ContextFreeGrammar.lean:333]: Same here

File: Mathlib/Computability/ContextFreeGrammar.lean [hunk 14]
```diff
@@ -253,3 +253,178 @@ theorem Language.IsContextFree.reverse (L : Language T) :
...
+    G.g.Derives (w₁.map (Symbol.map G.embedNT)) (w₂.map (Symbol.map G.embedNT)) := by
+  induction hG with
+  | refl => rfl
+  | tail _ orig ih => exact ih.trans_produces (produces_map orig)
+
+/-- A `Symbol` is good iff it is one of those nonterminals that result from projecting or it is any
+terminal. -/
+def EmbeddedContextFreeGrammar.Good : Symbol T G.g.NT → Prop
+  | Symbol.terminal _ => True
+  | Symbol.nonterminal n => ∃ n₀ : G.g₀.NT, G.projectNT n = n₀
```
Comment (YaelDillies) [inline Mathlib/Computability/ContextFreeGrammar.lean:345]:
```suggestion
inductive EmbeddedContextFreeGrammar.Good : Symbol T G.g.NT → Prop
  | terminal (t : T) : Good (.terminal t)
  | nonterminal (n : G.g.NT) (n₀ : G.g₀.NT) (hn : G.projectNT n = n₀) : Good (.nonterminal n)
```
will probably be nicer to work with

**Comment by madvorak** [comment]
There is a bug but my VS Code doesn't show any error. What's more, the Infoview is updated on every line as if it was a correct proof. How is it possible?

**Comment by YaelDillies** [comment]
I could reproduce locally the behavior you describe: No error shown. However, your version of mathlib was ancient in this PR, so I merged master and the error appeared. The lack of error locally was probably due to the new variable inclusion mechanism not being available yet on this branch, meaning that you were referring some far out `hn₀` (instead of receiving an error, since your hypothesis is called `hn`).

**Comment by madvorak** [comment]
> I could reproduce locally the behavior you describe: No error shown. However, your version of mathlib was ancient in this PR, so I merged master and the error appeared. The lack of error locally was probably due to the new variable inclusion mechanism not being available yet on this branch, meaning that you were referring some far out `hn₀` (instead of receiving an error, since your hypothesis is called `hn`).

Thank you very much! I will give it a try now.

**Comment by madvorak** [comment]
It seems the only remaining problem was that `List.filterMap` is no longer a `@[simp]` lemma.

File: Mathlib/Computability/ContextFreeGrammar.lean [hunk 15]
```diff
@@ -253,3 +253,179 @@ theorem Language.IsContextFree.reverse (L : Language T) :
...
+
+/-! This section contains only auxiliary constructions that will shorten upcoming proofs of
+closure properties. When combining several grammars together, we usually want to take a sum type of
+their nonterminal types and embed respective nonterminals to this sum type.
+We subsequently show that the resulting grammar preserves derivations of those strings that may
+contain any terminal symbols but only the proper nonterminal symbols.
+The embedding operation must be injective.
+The projection operation must be injective on those symbols where it is defined. -/
+
+/-- Mapping `Symbol` when it is a nonterminal. -/
```
Comment (YaelDillies) [inline Mathlib/Computability/ContextFreeGrammar.lean:267]:
```suggestion
/-- Mapping `Symbol` when it is a nonterminal symbol. -/
```
and below

File: Mathlib/Computability/ContextFreeGrammar.lean [hunk 16]
```diff
@@ -253,3 +253,179 @@ theorem Language.IsContextFree.reverse (L : Language T) :
...
+def Symbol.map {N₀ N : Type*} (f : N₀ → N) : Symbol T N₀ → Symbol T N
+  | Symbol.terminal t => Symbol.terminal t
+  | Symbol.nonterminal n => Symbol.nonterminal (f n)
```
Comment (YaelDillies) [inline Mathlib/Computability/ContextFreeGrammar.lean:270]: I think anonymous dot notation is really useful here to unclutter
```suggestion
  | .terminal t => .terminal t
  | .nonterminal n => .nonterminal (f n)
```
and below

File: Mathlib/Computability/ContextFreeGrammar.lean [hunk 17]
```diff
@@ -253,3 +253,179 @@ theorem Language.IsContextFree.reverse (L : Language T) :
...
+  /-- Each rule of the bigger grammar whose input nonterminal is recognized by the smaller grammar
+  has a corresponding rule in the smaller grammar. -/
+  preimage_of_rules :
+    ∀ r : ContextFreeRule T g.NT,
+      r ∈ g.rules → ∀ n₀ : g₀.NT,
+        embedNT n₀ = r.input → ∃ r₀ ∈ g₀.rules, r₀.map embedNT = r
+
+variable {G : EmbeddedContextFreeGrammar T}
+
+lemma EmbeddedContextFreeGrammar.projectNT_inverse_embedNT {n : G.g.NT} {n₀ : G.g₀.NT}
```
Comment (YaelDillies) [inline Mathlib/Computability/ContextFreeGrammar.lean:310]: I would suggest
```suggestion
namespace EmbeddedContextFreeGrammar
variable {G : EmbeddedContextFreeGrammar T}

lemma projectNT_inverse_embedNT {n : G.g.NT} {n₀ : G.g₀.NT}
```

File: Mathlib/Computability/ContextFreeGrammar.lean [hunk 18]
```diff
@@ -253,3 +253,179 @@ theorem Language.IsContextFree.reverse (L : Language T) :
...
+  | Symbol.terminal t => some (Symbol.terminal t)
+  | Symbol.nonterminal n => Option.map Symbol.nonterminal (f n)
+
+/-- Map the type of nonterminal symbols of a `ContextFreeRule` . -/
+def ContextFreeRule.map {N₀ N : Type*} (r : ContextFreeRule T N₀) (f : N₀ → N) :
+    ContextFreeRule T N :=
+  ⟨f r.input, r.output.map (Symbol.map f)⟩
+
+/-- A pair of `ContextFreeGrammar`s with maps between their types of nonterminal symbols that work,
+roughly speaking, in a good way. -/
```
Comment (YaelDillies) [inline Mathlib/Computability/ContextFreeGrammar.lean:283]: This is still really uninformative. Please improve.

File: Mathlib/Computability/ContextFreeGrammar.lean [hunk 19]
```diff
@@ -253,3 +253,179 @@ theorem Language.IsContextFree.reverse (L : Language T) :
...
+  /-- The two mappings are essentially inverses. -/
+  projectNT_embedNT : ∀ n₀ : g₀.NT, projectNT (embedNT n₀) = some n₀
+  /-- Each rule of the smaller grammar has a corresponding rule in the bigger grammar. -/
+  embed_mem_rules : ∀ r : ContextFreeRule T g₀.NT, r ∈ g₀.rules → r.map embedNT ∈ g.rules
+  /-- Each rule of the bigger grammar whose input nonterminal is recognized by the smaller grammar
+  has a corresponding rule in the smaller grammar. -/
+  preimage_of_rules :
+    ∀ r : ContextFreeRule T g.NT,
+      r ∈ g.rules → ∀ n₀ : g₀.NT,
+        embedNT n₀ = r.input → ∃ r₀ ∈ g₀.rules, r₀.map embedNT = r
```
Comment (YaelDillies) [inline Mathlib/Computability/ContextFreeGrammar.lean:306]: Do you have a reference for this?

Comment (madvorak) [reply Mathlib/Computability/ContextFreeGrammar.lean:306]: I have a reference for a similar structure.

File: Mathlib/Computability/ContextFreeGrammar.lean (hunk 15 above)
Comment (madvorak) [reply Mathlib/Computability/ContextFreeGrammar.lean:267]: Please reply to my overall comment about "nonterminal" vs "nonterminal symbol".

File: Mathlib/Computability/ContextFreeGrammar.lean (hunk 18 above)
Comment (madvorak) [reply Mathlib/Computability/ContextFreeGrammar.lean:283]: I don't know how to describe it in words without repeating the entire definition informally in the docstring.

File: Mathlib/Computability/ContextFreeGrammar.lean (hunk 19 above)
Comment (madvorak) [reply Mathlib/Computability/ContextFreeGrammar.lean:306]: https://arxiv.org/pdf/2302.06420 page 6

File: Mathlib/Computability/ContextFreeGrammar.lean [hunk 20]
```diff
@@ -253,3 +253,181 @@ theorem Language.IsContextFree.reverse (L : Language T) :
...
+  /-- The smaller grammar. -/
+  g₀ : ContextFreeGrammar.{uN} T
+  /-- The bigger grammar. -/
+  g : ContextFreeGrammar.{uN} T
+  /-- Mapping nonterminals from the smaller type to the bigger type. -/
+  embedNT : g₀.NT → g.NT
+  /-- Mapping nonterminals from the bigger type to the smaller type. -/
+  projectNT : g.NT → Option g₀.NT
+  /-- The embedding map is injective. -/
+  embed_inj : Function.Injective embedNT
```
Comment (YaelDillies) [inline Mathlib/Computability/ContextFreeGrammar.lean:294]: You don't need to assume this: `projectNT_embedNT` already implies it

File: Mathlib/Computability/ContextFreeGrammar.lean [hunk 21]
```diff
@@ -253,3 +253,181 @@ theorem Language.IsContextFree.reverse (L : Language T) :
...
+  /-- The projecting map is injective where defined. -/
+  project_inj : ∀ x y : g.NT, projectNT x = projectNT y → x = y ∨ projectNT x = none
+  /-- The two mappings are essentially inverses. -/
+  projectNT_embedNT : ∀ n₀ : g₀.NT, projectNT (embedNT n₀) = some n₀
```
Comment (YaelDillies) [inline Mathlib/Computability/ContextFreeGrammar.lean:298]: I believe you don't need `project_inj` at all. Here's my reasoning:
1. All you care about is that `projectNT` is a one-sided inverse to `embedNT`.
2. This already implies that `projectNT` is injective on the range of `embedNT`.
3. Hence all `project_inj` is giving you is that `projectNT` is also injective outside of the range of `embedNT`.
4. But `projectNT`might as well always be `none` outside of the range of `embedNT` (you could even enforce that if you wanted).
5. Therefore you don't need `project_inj`.

File: Mathlib/Computability/ContextFreeGrammar.lean (hunk 18 above)
Comment (YaelDillies) [reply Mathlib/Computability/ContextFreeGrammar.lean:283]:
```suggestion
/-- An embedding from a context-free grammar `g₀` to a context-free grammar `g` is an embedding
`embedNT` of the nonterminal symbols from the former to the latter along with a one-sided inverse
`projectNT` such that all rewrite rules of `g` that end in `embedNT n₀` for some `n₀` come from some
rule in `g₀`. -/```

File: Mathlib/Computability/ContextFreeGrammar.lean [hunk 22]
```diff
@@ -253,3 +253,181 @@ theorem Language.IsContextFree.reverse (L : Language T) :
...
+  /-- Each rule of the smaller grammar has a corresponding rule in the bigger grammar. -/
+  embed_mem_rules : ∀ r : ContextFreeRule T g₀.NT, r ∈ g₀.rules → r.map embedNT ∈ g.rules
+  /-- Each rule of the bigger grammar whose input nonterminal is recognized by the smaller grammar
+  has a corresponding rule in the smaller grammar. -/
+  preimage_of_rules :
+    ∀ r : ContextFreeRule T g.NT,
+      r ∈ g.rules → ∀ n₀ : g₀.NT,
+        embedNT n₀ = r.input → ∃ r₀ ∈ g₀.rules, r₀.map embedNT = r
```
Comment (YaelDillies) [inline Mathlib/Computability/ContextFreeGrammar.lean:306]: Something like this
```suggestion
  map_embedNT_surjOn :
    Set.SurjOn (Symbol.map embedNT) {r | r ∈ g.rules ∧ ∃ n₀, embedNT = n₀ = r.input}
      {r₀ | r₀ ∈ g₀.rules}
```

**Review by YaelDillies — COMMENTED** [review]
I have now read your paper with Jasmin. Here are a few comments in consequence

**Comment by madvorak** [comment]
What is wrong here, please?
```
invalid occurrence of universe level 'u_2' at 'ContextFreeGrammar.Embedding.GoodString', it does not occur at the declaration type, nor it is explicit universe level provided by the user, occurring at expression
  Good.{uT, u_2, u_1} a
at declaration body
  fun {T : Type uT} {g : ContextFreeGrammar T} (s : List (Symbol T g.NT)) ↦ ∀ ⦃a : Symbol T g.NT⦄, a ∈ s → Good a
```
